US05428158
Dissolve 5-(carbomethoxy)-5-(4-methoxybenzylthio)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene (1.14 g, 3.55 mmol) in 95% ethanol (25 mL), water (12 mL) and tetrahydrofuran (15 mL). Treat with potassium hydroxide (1.3 g, 23 mmol) and stir at room temperature for 1 hour. Filter and evaporate the solvent in vacuo. Partition between water (125 mL) and ether (75 mL). Separate the aqueous phase and acidify with cold concentrated hydrochloric acid. Extract with methylene chloride (75 mL), dry (Na2SO4) and evaporate the solvent in vacuo. Purify by silica gel chromatography to give 5-(carboxy)-5-(4-methoxybenzylthio)-2,4,5,6-tetrahydrocyclopenta[c]thiophene.

reactant | 5-(carbomethoxy)-5-(4-methoxybenzylthio)-2,4,5,6-tetrahydro-cyclopenta[c]thiophene | 3.55 mmol, 1.14 g | C(=O)(OC)C1(CC=2C(=CSC2)C1)SCC1=CC=C(C=C1)OC | C17H18O3S2
reactant | potassium hydroxide | 23 mmol, 1.3 g | [OH-].[K+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 12 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 5-(carboxy)-5-(4-methoxybenzylthio)-2,4,5,6-tetrahydrocyclopenta[c]thiophene | C(=O)(O)C1(CC=2C(=CSC2)C1)SCC1=CC=C(C=C1)OC | C16H16O3S2
